US08580957B2
A solution of (2S,4R)-1-acetyl-2-methyl-6-[4-(1-piperidinylmethyl)phenyl]-1,2,3,4-tetrahydro-4-quinolinamine (for a preparation see intermediate 66) (150 mg, 0.397 mmol) in toluene (4 mL) was treated under nitrogen with 2-chloro-5-Fluoropyridine (63 mg, 0.479 mmol), sodium tert-butoxide (46 mg, 0.479 mmol), racemic BINAP (12.9 mg, 0.021 mmol) and tris(dibenzylideneacetone)dipalladium(0) (19 mg, 0.021 mmol) and the resulting mixture was stirred under nitrogen at 110° C. for 16 h then cooled to room temperature. The mixture was loaded on a 5 g SCX cartridge and eluted with MeOH (25 mL) then with a 2N NH3 in MeOH (25 mL). The ammonia fractions were combined and concentrated in vacuo. Purification of the residue by flash chromatography on silica gel using a 20 G silica cartridge (gradient:1 to 5% (2N NH3 in MeOH) in DCM) gave (2S,4R)-1-acetyl-N-(5-fluoro-2-pyridinyl)-2-methyl-6-[4-(1-piperidinylmethyl)phenyl]-1,2,3,4-tetrahydro-4-quinolinamine (49.7 mg, 0.098 mmol, 25%) as an orange oil.

reactant | (2S,4R)-1-acetyl-2-methyl-6-[4-(1-piperidinylmethyl)phenyl]-1,2,3,4-tetrahydro-4-quinolinamine | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C1=CC=C(C=C1)CN1CCCCC1)N)C | C24H31N3O
reactant | 2-chloro-5-Fluoropyridine | 0.479 mmol, 63 mg | ClC1=NC=C(C=C1)F | C5H3ClFN
reactant | sodium tert-butoxide | 0.479 mmol, 46 mg | CC(C)([O-])C.[Na+]
reactant | BINAP | 0.021 mmol, 12.9 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.021 mmol, 19 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (2S,4R)-1-acetyl-N-(5-fluoro-2-pyridinyl)-2-methyl-6-[4-(1-piperidinylmethyl)phenyl]-1,2,3,4-tetrahydro-4-quinolinamine | 0.098 mmol, 49.7 mg, 25% | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C1=CC=C(C=C1)CN1CCCCC1)NC1=NC=C(C=C1)F)C | C29H33FN4O
